US04870088
The preparation of the starting material 1-(4-chlorobenzoyl)-1-(4-chlorophenoxy)-cyclopropane
A solution of 14.8 g=50 mmol of 1-bromo-3-chloropropyl4-chlorophenyl ketone in 30 ml of acetonitrile was added dropwise at room temperature with stirring to a suspension of 17.2 g=125 mmol of powdered potassium carbonate and 6.4 g=50 mmol of p-chlorophenol in 60 ml of acetonitrile. The mixture was stirred for 5 hours at room temperature, 0.4 g of tetrabutylammonium bromide was added, and the mixture was refluxed for 10 hours and worked up as specified in Example 1, and 12.6 g (82% of theory) of melting point: 69°-71° C. (from methanol) were obtained.

reactant | 1-bromo-3-chloropropyl4-chlorophenyl ketone | 50 mmol | BrC1(C(C=C(C=C1)Cl)CCCCl)C(=O)C1(C(C=C(C=C1)Cl)CCCCl)Br | C19H20Br2Cl4O
reactant | potassium carbonate | 125 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | p-chlorophenol | 50 mmol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | methanol | CO | CH4O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
catalyst | tetrabutylammonium bromide | 0.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-chlorobenzoyl)-1-(4-chlorophenoxy)-cyclopropane | ClC1=CC=C(C(=O)C2(CC2)OC2=CC=C(C=C2)Cl)C=C1 | C16H12Cl2O2
